US04168379
3-Isopropyl-6-benzyl-8-methyl-1,5-dihydro-[1,3]dioxepino[5,6-c]pyridin-9-ol
A mixture of 12.6 g (60 millimoles) of 2-benzyl-4-methyl-5-ethoxy-oxazole and 42.6 g (300 millimoles) of 2-isopropyl-4,7-dihydro-1,3-dioxepine is heated for 5 hours at 180° C. On cooling the mixture in an ice bath, 4.2 g of 3-isopropyl-6-benzyl-8-methyl-1,5-dihydro-[1,3]dioxepino[5,6-c]pyridin-9-ol crystallize out. A further 2.0 are obtained by evaporating the mother liquor, partitioning the residue between methylene chloride and dilute sodium hydroxide solution and neutralizing the alkaline phase. Recrystallization from ethyl acetate gives a pure product, of melting point 193°-194° C.

reactant | 2-benzyl-4-methyl-5-ethoxy-oxazole | 60 millimoles, 12.6 g | C(C1=CC=CC=C1)C=1OC(=C(N1)C)OCC | C13H15NO2
reactant | 2-isopropyl-4,7-dihydro-1,3-dioxepine | 300 millimoles, 42.6 g | C(C)(C)C1OCC=CCO1 | C8H14O2
product | 3-Isopropyl-6-benzyl-8-methyl-1,5-dihydro-[1,3]dioxepino[5,6-c]pyridin-9-ol | C(C)(C)C1OCC2=C(C(=NC(=C2O)C)CC2=CC=CC=C2)CO1 | C19H23NO3
